US07314884B2
Step B-1]: 1-Methyl-4-(2-methyl-2-nitro-propyl)-2-phenyl-1H-imidazole
Methyliodide (1.4 g) was added dropwise to a mixture of 4-(2-methyl-2-nitro-propyl)-2-phenyl-1H-imidazole (1.6 g) and fine powdered potassium hydroxide (2.19 g) in DMF (20 ml) at 20-25° C. The reaction mixture was stirred at RT for 4 h, quenched with ice/water and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over magnesium sulphate and concentrated. The residue was purified on silica gel using methylene chloride/methanol 2 and 5% as eluent to obtain the desired product (1.40 g) as a light yellow solid.

reactant | Methyliodide | 1.4 g | CI | CH3I
reactant | 4-(2-methyl-2-nitro-propyl)-2-phenyl-1H-imidazole | 1.6 g | CC(CC=1N=C(NC1)C1=CC=CC=C1)(C)[N+](=O)[O-] | C13H15N3O2
reactant | potassium hydroxide | 2.19 g | [OH-].[K+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 1-Methyl-4-(2-methyl-2-nitro-propyl)-2-phenyl-1H-imidazole | 1.40 g | CN1C(=NC(=C1)CC(C)([N+](=O)[O-])C)C1=CC=CC=C1 | C14H17N3O2
